US07087626B2
2-{3-[4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-isoindole-1,3-dione
4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol (0.100 g, 0.305 mmol), N-(3-bromopropyl)-phthalimide (0.163 g, 0.609 mmol, 2.0 equiv) and cesium carbonate (0.248 g, 0.761 mmol, 2.50 equiv) are combined in N,N-dimethylformamide (1.0 mL) and the reaction is heated at 60° C. for 48 hours. The reaction is diluted with water (1 mL) and the reaction mixture is partitioned between ethyl acetate (6 mL) and water (5 mL). The organic layer is removed and placed on a 10 g SCX resin column. The resin is washed sequentially with dichloromethane (20 mL) and 4:1 dichloromethane/2 N ammonia in methanol (125 mL). The latter fractions are evaporated to dryness and the residue is subjected to chromatography on silica gel (20 g) (9:1 ethyl acetate: methanol (2 N ammonia)) to yield the desired product as a tan solid, 0.117 g (75%).

reactant | 4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol | 0.305 mmol, 0.100 g | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)O | C20H16N4O
reactant | N-(3-bromopropyl)-phthalimide | 0.609 mmol, 0.163 g, 2.0 equiv | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | cesium carbonate | 0.761 mmol, 0.248 g, 2.50 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | water | 1 mL | O | H2O
product | 2-{3-[4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-isoindole-1,3-dione | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCCCN2C(C1=CC=CC=C1C2=O)=O | C31H25N5O3
